US07217736B2
3-Nitrobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 21]
From 3-nitrobenzyl alcohol (5.0 g; 33 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 20 h at 100° C. The yield was 1.00 g (55%).

reactant | 3-nitrobenzyl alcohol | 33 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(CO)C=CC1 | C7H7NO3
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 3-Nitrobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC(=CC=C1)[N+](=O)[O-])=O | InChI=1S/C12H14N2O5.ClH/c13-7-11(15)4-5-12(16)19-8-9-2-1-3-10(6-9)14(17)18;/h1-3,6H,4-5,7-8,13H2;1H
